US07241791B2
Step 1: 3-(4-Methoxyphenyl)-7-morpholin-4-yl-1-propyl-1H-indazole
To a stirred solution of 7-chloro-3-(4-methoxyphenyl)-1-propyl-1H-indazole (0.218 g, 0.73 mmol) in anhydrous degassed dimethoxyethane (3 mL) was added morpholine (0.076 mL, 0.84 mmol) and sodium t-butoxide (0.098 g, 1.02 mmol). Tris(dibenzylidene-acetone)dipalladium(0) (0.010 g, 0.011 mmol) and 2-dicyclohexyl phosphino-2′-(N,N-dimethylamino)biphenyl (0.09 g, 0.23 mmol) were added and the reaction refluxed for 90 minutes. The reaction was cooled to room temperature and water added. The mixture was extracted with ethyl acetate and the organic layer washed with water and saturated aqueous sodium chloride solution. After drying over anhydrous magnesium sulfate, the organic phase was filtered and the filtrate evaporated in vacuo to yield crude title compound. The oil was purified by silica gel column chromatography eluting with hexane/ethyl acetate (5/1 to 3/1) to provide the title compound as a white solid (0.157 g, 0.45 mmol, 63%). An analytical sample was crystallized from hexane.

reactant | 7-chloro-3-(4-methoxyphenyl)-1-propyl-1H-indazole | 0.73 mmol, 0.218 g | ClC=1C=CC=C2C(=NN(C12)CCC)C1=CC=C(C=C1)OC | C17H17ClN2O
reactant | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
reactant | morpholine | 0.84 mmol, 0.076 mL | N1CCOCC1 | C4H9NO
reactant | sodium t-butoxide | 1.02 mmol, 0.098 g | CC(C)([O-])C.[Na+]
solvent | water | O | H2O
product | 3-(4-Methoxyphenyl)-7-morpholin-4-yl-1-propyl-1H-indazole | 0.45 mmol, 0.157 g, 63% | COC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)N1CCOCC1)CCC | C21H25N3O2
